US07947841B2
5-[4-(3-Hydroxy-pyridin-2-yl)-oxazol-2-yl]-pentanoic acid
Treat 5-[4-(3-methoxy-pyridin-2-yl)-oxazol-2-yl]-pentanoic acid methyl ester with boron tribromide followed by standard hydrolysis to afford the title compound.

reactant | 5-[4-(3-methoxy-pyridin-2-yl)-oxazol-2-yl]-pentanoic acid methyl ester | COC(CCCCC=1OC=C(N1)C1=NC=CC=C1OC)=O | C15H18N2O4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 5-[4-(3-Hydroxy-pyridin-2-yl)-oxazol-2-yl]-pentanoic acid | OC=1C(=NC=CC1)C=1N=C(OC1)CCCCC(=O)O | C13H14N2O4
